US08802858B2
2-Amino-N-(4-{1-[2-(4-amino-phenyl)-2-oxo-ethyl]-1H-benzoimidazol-2-yl}-furazan-3-yl)-acetamide hydrochloride salt
A mixture of 0.2 g of [4-(2-{2-[4-(2-benzyloxycarbonylamino-acetylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester (0.29 mmol; 1 eq.) in 2 mL of tetrahydrofuran and 2 mL of methanol containing 0.19 mL of a solution of 4M HCl in 1,4-dioxane (0.86 mmol; 3 eq.) and 0.046 g of 10% Pd/C (0.04 mmol; 0.14 eq.) is stirred for 7 hours under hydrogen atmosphere at room temperature. Then the mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is suspended in 2 mL of a mixture of dichloromethane/diisopropylether (1/1, v/v) and the suspension is filtered. The solid is washed with 2 mL of diisopropylether and dried under reduced pressure to give the crude product. The solid is purified by MCI gel column chromatography (eluent water/acetonitrile=75/25 to 65/35, containing 0.1% of HCl) to afford 0.02 g of the desired product as a light brown powder.

reactant | [4-(2-{2-[4-(2-benzyloxycarbonylamino-acetylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester | 0.29 mmol, 0.2 g, 1 eq. | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2NC(CNC(=O)OCC2=CC=CC=C2)=O)=O)=O | C35H29N7O7
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 0.86 mmol, 3 eq. | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 0.04 mmol, 0.046 g, 0.14 eq. | [Pd] | Pd
product | 2-Amino-N-(4-{1-[2-(4-amino-phenyl)-2-oxo-ethyl]-1H-benzoimidazol-2-yl}-furazan-3-yl)-acetamide hydrochloride salt | 0.02 g | Cl.NCC(=O)NC1=NON=C1C1=NC2=C(N1CC(=O)C1=CC=C(C=C1)N)C=CC=C2 | InChI=1S/C19H17N7O3.ClH/c20-9-16(28)23-18-17(24-29-25-18)19-22-13-3-1-2-4-14(13)26(19)10-15(27)11-5-7-12(21)8-6-11;/h1-8H,9-10,20-21H2,(H,23,25,28);1H
